Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
band aid adhesive
 
Attending: ___.
 
Chief Complaint:
Malaise, weight, RUL mass
 
Major Surgical or Invasive Procedure:
___ Bronchoscopy with EBUS, TBNA, tracheobronchial wash

 
History of Present Illness:
___ man with hyperlipidemia, hx prostate cancer s/p radical 
prosectomy and current 100pk/yr smoker presented in the last 
month with a cough and weight loss and was found to have a RUL 
mass, referred in by thoracic surgery and IP in concern for ~1 
week of increasing fatigue and decreased functional status.  
 
In the ED, initial vital signs were: 96.7 94 136/67 18 100% RA  
 - Exam was notable for: tired-appearing, diminished R lung 
sounds  
 - Labs were notable for: wbc 14.8, hb 12.2, plt 476, calcium 
11.3  
 - Imaging: CXR 8 cm right upper lobe mass as seen on recent 
imaging. 

No superimposed acute cardiopulmonary process.  
 
Vitals prior to transfer were: 97.5 73 123/73 16 98% RA  
 
Upon arrival to the floor, patient states he is feeling well. 
Endorses about one week of constant epigastric pain. Pain is not 
worsening with food or exertion. He is not taking anything for 
this pain. Otherwise, no complaints.  
 
Past Medical History:
- RUL mass, c/f malignancy; pituitary infundibular lesion, c/f 
metastatic disease
- Hyperlipidemia  
- Prostate cancer s/p robotic radical prostectomy (___)  
- Tonsillectomy 
 
Social History:
___
Family History:
Two brothers and mother with CAD 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VITALS: 98 106/66 81 99% on RA  
Weight 79.6 kg  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT - normocephalic, atraumatic  
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
SKIN: Without rash.  
NEUROLOGIC: A&Ox3  

DISCHARGE PHYSICAL EXAM:
========================
VS: Tm/Tc 98.8 | HR ___ | BP 118/60-135/77 | RR 20 | 02 96% 2L 
then 95% RA  
GENERAL: Pleasant, elderly male, in no apparent distress. Awake, 
alert and oriented x3. 
HEENT: PERRL. EOMI.  
CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
PULMONARY: Clear to auscultation bilaterally. Somewhat 
diminished breath sound in upper lobes.
ABDOMEN: Normal bowel sounds, soft, non-tender.
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:43PM BLOOD WBC-14.8* RBC-4.51* Hgb-12.2* Hct-40.0 
MCV-89 MCH-27.1 MCHC-30.5* RDW-13.3 RDWSD-43.3 Plt ___
___ 01:43PM BLOOD Neuts-81.2* Lymphs-10.3* Monos-5.7 
Eos-1.6 Baso-0.5 Im ___ AbsNeut-12.03* AbsLymp-1.52 
AbsMono-0.85* AbsEos-0.23 AbsBaso-0.07
___ 01:43PM BLOOD ___ PTT-28.7 ___
___ 01:43PM BLOOD Glucose-118* UreaN-21* Creat-1.0 Na-138 
K-4.1 Cl-99 HCO3-29 AnGap-14
___ 01:43PM BLOOD Calcium-11.3* Phos-2.6* Mg-2.1
___ 01:43PM BLOOD PTH-18
___ 02:11PM BLOOD Lactate-1.4
___ 04:00PM URINE Color-Yellow Appear-Hazy Sp ___
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 04:00PM URINE RBC-5* WBC-3 Bacteri-NONE Yeast-NONE 
Epi-0

KEY LABS:
=========
___ 07:49AM BLOOD FSH-4.9 LH-6.1 Prolact-11 TSH-1.7
___ 07:49AM BLOOD Free T4-1.1
___ 07:49AM BLOOD Cortsol-21.6* Testost-165*
___ 01:43PM BLOOD PTH-18

DISCHARGE LABS:
===============
___ 06:35AM BLOOD WBC-12.4* RBC-3.97* Hgb-10.6* Hct-34.8* 
MCV-88 MCH-26.7 MCHC-30.5* RDW-13.1 RDWSD-41.6 Plt ___
___ 06:35AM BLOOD Glucose-88 UreaN-23* Creat-0.8 Na-135 
K-4.2 Cl-100 HCO3-23 AnGap-16
___ 06:35AM BLOOD Calcium-9.9 Phos-3.1 Mg-1.7

MICROBIOLOGY:
=============
___ 7:30 pm BRONCHIAL WASHINGS      TRACHEOBRONCHAIL WASH. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

___ 1:43 pm BLOOD CULTURE: No growth to date at time of 
discharge 
 
Brief Hospital Course:
Mr. ___ is a ___ man with hyperlipidemia, and a history of 
prostate cancer s/p radical prostatectomy and a current 
100-pack-year smoker who presented in the past month with a 
cough and weight loss and was found to have a RUL mass 
concerning for malignancy.

He was admitted for expedited workup of this mass. He underwent 
bronchoscopy with EBUS, TBNA, tracheobronchial wash. Biopsies of 
RUL mass and lymph node 7 were performed and pending at 
discharge.

Given leukocytosis and RUL mass, there was concern for 
post-obstructive pneumonia and patient was empirically treated 
with levofloxacin for 5 days. He does not need further 
antibiotic treatment at this time.

___ man with hyperlipidemia, h/o prostate cancer s/p radical 
prostatectomy and current 100-pk-yr smoker who was found to have 
a RUL mass, referred to ED for expedited workup by thoracic 
surgery and IP in concern for ~1 week of increasing fatigue and 
decreased functional status.  

==============
ACTIVE ISSUES: 
==============

# Lung mass: Very concerning for malignancy given history of 
smoking as well as invasion into surrounding structures. Less 
likely to be infectious in origin, although could consider 
post-obstructive pneumonia in the setting of obstructing lesion 
and leukocytosis. He underwent bronchoscopy with EBUS, TBNA, 
tracheobronchial wash. Biopsies of RUL mass and lymph node 7 
were performed and pending at discharge. He was given a course 
of Levofloxacin for 5 days for presumed post-obstructive 
pneumonia per IP recommendations.

# Brain lesion: A staging brain MRI was performed and revealed a 
solitary 1-cm contrast-enhancing lesion of the pituitary 
infundibulum, felt to be very concerning for metastatic disease. 
Given this lesion's proximity to the pituitary gland, screening 
studies for panhypopituitarism were performed. These revealed 
only a low testosterone. There is felt to be no urgent need for 
endocrine intervention at this time, but follow up is 
recommended. Case was reviewed by neurosurgery, who will follow 
up with the patient after discharge with endocrinology in 
___ clinic.

 
# Hypercalcemia: Patient presented with serum Ca=11.3, which 
normalized with fluids administration. Most likely due to 
malignancy, although could consider primary hyperparathyroidism. 
PTH low normal, possible mixed picture.

===============
CHRONIC ISSUES:
=============== 

# Hyperlipidemia: Continued home statin  

 Next of Kin: ___  
 Phone: ___  
# CODE STATUS: DNR/DNI confirmed  

=====================
TRANSITIONAL ISSUES:
=====================
[ ] Biopsies of the RUL mass, lymph node, and tracheobronchial 
washings are pending at discharge and will be followed up by Dr. 
___ the ___ team. Scheduled ___.
[ ] Patient to follow up in ___ with Neurosurgery 
(Dr. ___ and Endocrinology.
[ ] Testosterone low at 165. Other endocrine studies within 
normal limits. Patient to follow up with endocrinology.
[ ] Patient has completed a ___ course of levofloxacin for 
presumed post-obstructive pneumonia. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGOSES:
- Post-obstructive pneumonia
- Right upper lobe lung mass
- Pituitary stalk mass

SECONDARY DIAGNOSES:
- Hypercalcemia
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure to care for you at ___.

You were admitted for workup of a lung mass. You underwent a 
procedure called a bronchoscopy, and biopsies and samples were 
taken. We are waiting on those results--you will learn more 
about them at your upcoming appointment with Dr. ___ on 
___.

You also underwent and MRI of your brain. This showed a lesion 
near your pituitary gland. While it does not seem to be causing 
problems right now, we will have you follow up with the 
neurosurgeons and endocrinologists. You will be contacted with 
an appointment. Please see below.

You completed a full course of antibiotics for a possible 
pneumonia while you were in the hospital. You won't need to take 
any more antibiotics at home.

Please see all of your appointments, listed below.

Thank you for letting us participate in your care,
Your ___ team
 
Followup Instructions:
___